US06632810B2
Synthesis of N,N′-bis[(5,6,7-trimethoxybenzothiazol-2-yl)methyl]homopiperazine:
2-Chloromethyl-5,6,7-trimethoxybenzothiazole (200 mg) and homopiperazine (37 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-5,6,7-trimethoxybenzothiazole | 200 mg | ClCC=1SC2=C(N1)C=C(C(=C2OC)OC)OC | C11H12ClNO3S
reactant | homopiperazine | 37 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(5,6,7-trimethoxybenzothiazol-2-yl)methyl]homopiperazine | COC=1C(=C(C2=C(N=C(S2)CN2CCN(CCC2)CC=2SC3=C(N2)C=C(C(=C3OC)OC)OC)C1)OC)OC | C27H34N4O6S2
